US04514408
To a 80% suspension of 0.28 mol of sodium hydride in dimethylformamide, 0.06 mol of 3-morpholinomethylphenol is added portionwise, under stirring at a temperature of about 20° C., then the mixture is stirred 15 minutes at room temperature and a solution of 0.08 mol of 3-chloropropylamine hydrochloride in 20 ml of dimethylformamide is added thereto at 5°-10° C. The reaction mixture is stirred 24 hours at room temperature, then, after addition of 400 ml of ice-water, it is extracted 4 times with 100 ml of ethyl acetate. The organic solution is washed twice with 30 ml of 10% sodium hydroxide, then 3 times with 20 ml of water. The mixture is dried over anhydrous sodium sulfate and evaporated to dryness under reduced pressure. Thus, 3-(3-morpholinomethylphenoxy)propylamine is obtained, in the form of a yellow oil. Yield: 64%.

reactant | sodium hydride | 0.28 mol | [H-].[Na+]
reactant | 3-morpholinomethylphenol | 0.06 mol | O1CCN(CC1)CC=1C=C(C=CC1)O | C11H15NO2
reactant | 3-chloropropylamine hydrochloride | 0.08 mol | Cl.ClCCCN
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-(3-morpholinomethylphenoxy)propylamine | Yield: 64% | O1CCN(CC1)CC=1C=C(OCCCN)C=CC1 | C14H22N2O2
